US08669361B2
Reaction of 5-chloro-1-isopropyl-4-nitro-1H-pyrazole and tert-butyl piperidin-4-ylmethylcarbamate gave tert-butyl (1-(1-isopropyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-yl)methylcarbamate as a pale yellow solid (0.45 g, 92%). 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 4.78 (hep, J=6.7 Hz, 1H), 4.64 (s, 1H), 3.42-3.29 (m, 2H), 3.11 (t, J=6.6 Hz, 2H), 2.95-2.87 (m, 2H), 2.05 (s, 1H), 1.81 (d, J=12.8 Hz, 2H), 1.46 (s, 9H), 1.43 (d, J=6.7 Hz, 6H), 1.37 (dd, J=12.1, 4.3 Hz, 2H)

reactant | 5-chloro-1-isopropyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C(C)C)[N+](=O)[O-] | C6H8ClN3O2
reactant | tert-butyl piperidin-4-ylmethylcarbamate | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
product | tert-butyl (1-(1-isopropyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-yl)methylcarbamate | 0.45 g, 92% | C(C)(C)N1N=CC(=C1N1CCC(CC1)CNC(OC(C)(C)C)=O)[N+](=O)[O-] | C17H29N5O4
